US03971827
The overall process can be illustrated by the manufacture of nerol, ((Z)-3,7-dimethylocta-2,6-dien-1-ol), which begins with the treatment of 2-butynoic acid with lithium 2,2,6,6-tetramethylpiperidide, followed by alkylation with 1-bromo-3-methyl-2-butene to yield 7-methyloct-6-en-2-ynoic acid as the major product. 2-Ethenylidene-5-methyl-4-hexenoic acid is produced as a minor product in the course of the alkylation. The acids are esterified conveniently with methyl iodide, and treated with morpholine, followed by acid workup, to give a mixture of a major amount of methyl 7-methyloct-6-en-2-ynoate and a minor amount of methyl 2-acetyl-5-methyl-4-hexenoate. The latter compounds are separated by chromatography on a silica gel column using ethyl acetate-n-hexane as eluant. Contacting of the isolated methyl 7-methyloct-6-en-2-ynoate with a mixture of lithium dimethyl cuprate and methyl copper at low temperatures gives methyl (Z)-3,7-dimethylocta-2,6-dienoate, which is reduced to nerol, (Z)-3,7-dimethylocta-2,6-dien-1-ol, for example, with aluminium hydride.

reactant | methyl iodide | CI | CH3I
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | methyl 7-methyloct-6-en-2-ynoate | CC(=CCCC#CC(=O)OC)C | C10H14O2
reactant | methyl 2-acetyl-5-methyl-4-hexenoate | C(C)(=O)C(C(=O)OC)CC=C(C)C | C10H16O3
product | methyl (Z)-3,7-dimethylocta-2,6-dienoate | C/C(=C/C(=O)OC)/CCC=C(C)C | C11H18O2
